US04356118
Benzoyl-phenylalanyl-valyl-tryptophan.
A mixture of 30 ml chloroform and 30 ml water containing 1.0 g of phenylalanyl-valyl-tryptophan and 0.6 g of sodium carbonate is cooled to 0° and treated with 0.20 ml of benzoyl chloride. The reaction mixture was allowed to warm to room temperature and stirred overnight. The layers were separated and the aqueous layer extracted with ethyl acetate. The combined organic phases were dried over magnesium sulfate and concentrated under reduced pressure to give 0.47 g (53 percent) of the title compound. Analysis calculated for C32H34N4O5.H2O: C, 67.11; H, 6.34; N, 9.79. Found: C, 67.00; H, 6.23; N, 9.13.

reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
reactant | phenylalanyl-valyl-tryptophan | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C25H30N4O4
reactant | sodium carbonate | 0.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzoyl chloride | 0.20 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 30 ml, 1.0 g | O | H2O
product | Benzoyl-phenylalanyl-valyl-tryptophan | 0.47 g, 53 percent | C(C1=CC=CC=C1)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C32H34N4O5
